US06342765B1
Methyl 2-(4-fluorophenyl)-6-hydroxypyridin-3-carboxylate was reacted with 2-(imidazol-1-yl)-1-(4-fluorophenyl)ethanol by the procedure described for the preparation of 2-(4-fluorophenethyl)-5-[1-(4-fluorophenyl)-2-(1-methylimidazol-5-yl)ethoxy]benzoate to give methyl 2-(4-fluorophenyl)-6-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxy]pyridin-3-carboxylate.

reactant | Methyl 2-(4-fluorophenyl)-6-hydroxypyridin-3-carboxylate | FC1=CC=C(C=C1)C1=NC(=CC=C1C(=O)OC)O | C13H10FNO3
reactant | 2-(imidazol-1-yl)-1-(4-fluorophenyl)ethanol | N1(C=NC=C1)CC(O)C1=CC=C(C=C1)F | C11H11FN2O
reactant | 2-(4-fluorophenethyl)-5-[1-(4-fluorophenyl)-2-(1-methylimidazol-5-yl)ethoxy]benzoate | FC1=CC=C(CCC2=C(C(=O)[O-])C=C(C=C2)OC(CC2=CN=CN2C)C2=CC=C(C=C2)F)C=C1
product | methyl 2-(4-fluorophenyl)-6-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxy]pyridin-3-carboxylate | FC1=CC=C(C=C1)C1=NC(=CC=C1C(=O)OC)OC(CN1C=NC=C1)C1=CC=C(C=C1)F | C24H19F2N3O3
